US04971993
N-t-butyloxycarbonylglycyl-L-proline benzylester (18.12 g, 50 mmole) was dissolved in 4N hydrochloric acid in dioxane (220 ml) solution, and stirred for 20 minutes at room temperature. The solvent was distilled off and the residue thus obtained was powdered in diethyl ether to obtain glycyl-L-proline benzylester hydrochloride (yield: 13.21 g; 88.4%).

reactant | N-t-butyloxycarbonylglycyl-L-proline benzylester | 50 mmole, 18.12 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CNC(=O)OC(C)(C)C)=O)=O | C19H26N2O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 220 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | glycyl-L-proline benzylester hydrochloride | yield: 13.21 g, 88.4% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CN)=O)=O | InChI=1S/C14H18N2O3.ClH/c15-9-13(17)16-8-4-7-12(16)14(18)19-10-11-5-2-1-3-6-11;/h1-3,5-6,12H,4,7-10,15H2;1H/t12-;/m0./s1
